US07947676B2
3-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]propan-1-ol
The procedure described in Example 1 was repeated using N′-[4-cyano-3-(3-hydroxypropoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide (150 mg, 0.63 mmol) and 3-chloro-4-(pyridin-2-ylmethoxy)aniline (148 mg, 0.63 mmol) to give the title compound as a white solid (140 mg, 52%); NMR Spectrum: 1.94-1.98 (m, 2H), 3.59-3.62 (m, 2H), 4.39 (t, 2H), 4.62 (br s, 1H), 5.29 (s, 2H), 7.23 (d, 1H), 7.35-7.38 (m, 1H), 7.54-7.59 (m, 2H), 7.86-7.91 (m, 2H), 8.28 (s, 1H), 8.43 (s, 1H), 8.59 (d, 1H); Mass Spectrum: 427 (MH+).

reactant | N′-[4-cyano-3-(3-hydroxypropoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide | 0.63 mmol, 150 mg | C(#N)C=1C(=NNC1N=CN(C)C)OCCCO | C10H15N5O2
reactant | 3-chloro-4-(pyridin-2-ylmethoxy)aniline | 0.63 mmol, 148 mg | ClC=1C=C(N)C=CC1OCC1=NC=CC=C1 | C12H11ClN2O
product | 3-[(4-{[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}-1H-pyrazolo[3,4-d]pyrimidin-3-yl)oxy]propan-1-ol | 140 mg, 52% | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=C2C(=NC=N1)NN=C2OCCCO | C20H19ClN6O3
